US05578634
5-Methoxy-2-methyl-1-(1-phenylethyl)-1H-indole-3-acetic acid ethyl ester. Using the procedure described in Example 1, Part F, 494 mg (2 mmol) of 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester was reacted with 80 mg (2 mmol) of 60% NaH/mineral oil and 0.27 mL (2 mmol) of (1-bromoethyl)benzene and after chromatography on silica (eluting with 25% EtOAc/hexane) there was obtained 160 mg (22%) of 5-methoxy-2-methyl-1-(1-phenylethyl)1H-indole-3-acetic acid acid ethyl ester as an oil.

reactant | 5-Methoxy-2-methyl-1-(1-phenylethyl)-1H-indole-3-acetic acid ethyl ester | C(C)OC(CC1=C(N(C2=CC=C(C=C12)OC)C(C)C1=CC=CC=C1)C)=O | C22H25NO3
reactant | 5-methoxy-2-methyl-1H-indole-3-acetic acid ethyl ester | 2 mmol, 494 mg | C(C)OC(CC1=C(NC2=CC=C(C=C12)OC)C)=O | C14H17NO3
reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | (1-bromoethyl)benzene | 2 mmol, 0.27 mL | BrC(C)C1=CC=CC=C1 | C8H9Br
product | 5-methoxy-2-methyl-1-(1-phenylethyl)1H-indole-3-acetic acid | 160 mg, 22% | COC=1C=C2C(=C(N(C2=CC1)C(C)C1=CC=CC=C1)C)CC(=O)O | C20H21NO3
